US05061719
2-Methyl-2-n-hexyl-3-(1-imidazolylcarbonyl)-5,5-dimethyl-1,3-oxazolidine (Compound No. 11)
A mixture comprising 2.6 g (0.01 mole) of 2-methyl-2-n-hexyl-3-chlorocarbonyl-5,5-dimethyl-1,3-oxazolidine, 1.0 g (0.015 mole) of imidazole and 2.1 g (0.015 mole) of potassium carbonate was stirred with 30 ml of dimethylformamide (DMF) as the solvent at 50° C. to 60° C. for one hour. After completion of the reaction, water was added and then the mixture was extracted with toluene. The toluene layer was washed with water, dried and condensed, and then purified by a column chromatography, thereby obtaining 2.7 g of the title compound having pale yellow color.

reactant | 2-methyl-2-n-hexyl-3-chlorocarbonyl-5,5-dimethyl-1,3-oxazolidine | 0.01 mole, 2.6 g | CC1(OC(CN1C(=O)Cl)(C)C)CCCCCC | C13H24ClNO2
reactant | imidazole | 0.015 mole, 1.0 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.015 mole, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Methyl-2-n-hexyl-3-(1-imidazolylcarbonyl)-5,5-dimethyl-1,3-oxazolidine | 2.7 g | CC1(OC(CN1C(=O)N1C=NC=C1)(C)C)CCCCCC | C16H27N3O2
